US07662811B2
Step 6: Preparation of 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazolin-5-amine:
A suspension of 80 mg of Pd/C (10% w/w) in a solution of 5-azido-2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydroquinazoline (800 mg, 1.75 mmol) in 30 mL of EtOAc was stirred under H2 atmosphere overnight. The reaction mixture was then directly submitted to flash chomatograph (SiO2, EtOAc to EtOAc/MeOH=100:15 to EtOAc/2M NH3 in MeOH=2:1) to give the desired product as a white solid.

reactant | 5-azido-2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydroquinazoline | 1.75 mmol, 800 mg | N(=[N+]=[N-])C1C=2C=NC(=NC2CCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H31N5OSi
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
solvent | EtOAc | 2M | CCOC(=O)C | C4H8O2
product | 2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5,6,7,8-tetrahydro-quinazolin-5-amine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=NC=2CCCC(C2C=N1)N | C26H33N3OSi
